// RLC damping design - Spectre netlist (output across C)
simulator lang=spectre
global 0

// Fast voltage step on `in` (edge << circuit natural period -> ideal step)
vin (in 0) vsource type=pulse val0=0 val1=1.8 delay=2.15377e-08 rise=8.61507e-11 fall=8.61507e-11 width=3.44603e-06 period=6.89206e-06

// Series RLC. R1 is the damping resistor to size; L1 and C1 are FIXED.
l1 (in mid) inductor l=4.7e-06
r1 (mid out) resistor r=274.912
c1 (out 0) capacitor c=1e-11

// Transient: maxstep resolves the ring, stop captures the settling tail
tran tran stop=1.72301e-06 errpreset=conservative maxstep=2.15377e-10

save in out
